US07211672B2
(±)-Cis-N-{2-methyl-1-[5-(4-nitro-phenyl)-furan-2-carbonyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-N-phenyl-propionamide (A-144)
(±)-Cis-N-{2-methyl-1-[5-(4-nitro-phenyl)-furan-2-carbonyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-N-phenyl-propionamide propionamide was made following general procedure A, substituting 5-(4-nitro-phenyl)-furan-2-carbonyl chloride for 2-furoyl chloride and propionyl chloride for acetyl chloride.

reactant | (±)-Cis-N-{2-methyl-1-[5-(4-nitro-phenyl)-furan-2-carbonyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-N-phenyl-propionamide propionamide | C(CC)(=O)N.C[C@@H]1N(C2=CC=CC=C2[C@@H](C1)N(C(CC)=O)C1=CC=CC=C1)C(=O)C=1OC(=CC1)C1=CC=C(C=C1)[N+](=O)[O-]
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (±)-Cis-N-{2-methyl-1-[5-(4-nitro-phenyl)-furan-2-carbonyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-N-phenyl-propionamide | C[C@@H]1N(C2=CC=CC=C2[C@@H](C1)N(C(CC)=O)C1=CC=CC=C1)C(=O)C=1OC(=CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C30H27N3O5
